US07612067B2
Preparation of 3-(5-benzyl-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
Using a procedure similar to Example 32, 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.30 g, 0.765 mmol) and PdCl2(dppf) (0.028 g, 0.038 mmol) and 0.5 M solution of benzylzinc bromide in THF (4.6 mL, 2.29 mmol) are reacted. The residue is purified by ISCO column chromatography (15%-20% EtOAc/hexane gradient) and is chromatographed (50×250 C18 Symmetry column, 40-65% water: 0.1% TFA/ACN: 0.1% TFA gradient) furnish the title compound (0.062 g, 0.15 mmol, 20%). 1H NMR (CDCl3), δ 0.88 (t, J=7.5 Hz, 6H), 1.73-1.92 (m, 4H), 2.06 (s, 3H), 2.45 (s, 3H), 2.51 (s, 3H), 3.29-3.39 (m, 1H), 4.16 (s, 2H), 6.65 (s, 1H), 6.68 (s, 1H), 7.22-7.29 (m, 1H), 7.31-7.36 (m, 4H). LC/MS (m/z): calcd. for C25H29N3S (M+H)+: 404.3; found: 404.2.

reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.765 mmol, 0.30 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
reactant | benzylzinc bromide | [Br-].C(C1=CC=CC=C1)[Zn+]
reactant | THF | 2.29 mmol, 4.6 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.038 mmol, 0.028 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(5-benzyl-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.15 mmol, 0.062 g, 20% | C(C1=CC=CC=C1)C1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C25H29N3S
